US06410539B1
Methyl 4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylamino]-2-(4-fluorophenyl)benzoate (4.36 g; 10 mmol) in methanol (100 ml) was treated with 2N aqueous sodium hydroxide solution (20 ml; 40 mmol) at reflux for 24 hours. After evaporation of the methanol, the residue was taken up in water, the pH adjusted to 4.5 with HCl 2N. The resulting precipitate was filtered, washed with water and pentane to give 4-[-(4-fluorophenyl)-2-(imidazol-1-yl)ethylamino]-2-(4-fluorophenyl)benzoic acid as a solid (4 g; 95%).

reactant | Methyl 4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylamino]-2-(4-fluorophenyl)benzoate | 10 mmol, 4.36 g | FC1=CC=C(C=C1)C(CN1C=NC=C1)NC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C25H21F2N3O2
reactant | sodium hydroxide | 40 mmol, 2N, 20 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-[-(4-fluorophenyl)-2-(imidazol-1-yl)ethylamino]-2-(4-fluorophenyl)benzoic acid | FC1=CC=C(C=C1)N(C1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F)CCN1C=NC=C1 | C24H19F2N3O2
